US04888345
1,2-Dihydro-4-[3-(trifluoromethyl)phenyl]imidazo-[1,5-a]pyrimidine-8-carboxamide
To a solution of 9.2 g of 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxamide (Ex. 28, U.S. Pat. No. 4,236,005) in 100 ml of glacial acetic acid, was added in portions 3.0 g of sodium cyanoborohydride at room temperature under nitrogen. The mixture was stirred at room temperature for 3 hours. The solvent was evaporated in vacuo to give an oil. The oil was triturated with water and a white precipitate formed, and this was collected by filtration, washed with water and then was slurried with saturated sodium bicarbonate solution. The precipitate was again collected by filtration and washed with water. This solid was dissolved in dichloromethane, and then water was added. The organic layer was separated, dried over anhydrous sodium sulfate and filtered. Evaporation of the filtrate gave a yellow solid which was recrystallized from acetonitrile to give 7.0 g of the product of the example as a light yellow solid, mp 192°-194° C.

reactant | 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxamide | 9.2 g | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C(=O)N)(F)F | C14H9F3N4O
reactant | sodium cyanoborohydride | 3.0 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1,2-Dihydro-4-[3-(trifluoromethyl)phenyl]imidazo-[1,5-a]pyrimidine-8-carboxamide | 7.0 g | FC(C=1C=C(C=CC1)C1=CCNC=2N1C=NC2C(=O)N)(F)F | C14H11F3N4O
